US05102877
To a solution of (2S)-1-allyloxycarbonyl-4-(1-hydroxyethyl)-2-hydroxymethylpyrrolidine (30 g) in acetone (300 ml) was added dropwise Jones' Reagent (2.67N, 245 ml) at 0° C. After stirring for 3 hours, to the reaction mixture was added dropwise 2-propanol (500 ml), and the mixture was stirred at 0° C. for 1 hour. The precipitate was filtered off and the filtrate was evaporated to give a residual oil, which was extracted with ethyl acetate and the organic layer was separated, washed with brine, dried over magnesium sulfate. Evaporation of the solvent gave (2S)-4-acetyl-1-allyloxycarbonylpyrrolidine-2-carboxylic acid (26.56 g).

reactant | (2S)-1-allyloxycarbonyl-4-(1-hydroxyethyl)-2-hydroxymethylpyrrolidine | 30 g | C(C=C)OC(=O)N1[C@@H](CC(C1)C(C)O)CO | C11H19NO4
reactant | Jones' Reagent | 2.67N, 245 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 2-propanol | 500 ml | CC(C)O | C3H8O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | (2S)-4-acetyl-1-allyloxycarbonylpyrrolidine-2-carboxylic acid | 26.56 g | C(C)(=O)C1C[C@H](N(C1)C(=O)OCC=C)C(=O)O | C11H15NO5
